Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
There were no major surgical or invasive procedures during 
hospitalization. 
 
History of Present Illness:
___ male/poor historian with CAD c/p CABG ___, afib/flutter 
but recently taken off Coumadin, DM on insulin, and recent 
admission for empyema s/p decortication ___ who presented to 
OSH with SOB and chest tightness x2-3 days. Initially 
hypotensive on arrival to OSH ED, s/p IVF with improvement 
(500cc). Pt had constant chest tightness, given ASA at OSH. EKG 
with aflutter/atachy with minimal lateral ST depression; CXR 
with mild/mod rt pleural effusion unchanged, CKD at baseline Cr 
1.6, trop elevated at 0.108. Pt was interested in cath if needed 
and thus transferred to ___. Pt reportedly DNR/DNI on transfer 
note, however, ___ with documentation of recent documentation 
where he was made full code (w/ family). On arrival to our ED, 
pt is CP free but tachypneic, b/l ___ edema noted. S/p 500cc IVF. 
Pt denies SOB, CP, palpitations, n/v, abd pain, dysuria, cough, 
f/c. He reports thatthe ___ provider had sent him to the ED 
for SOB, however, he denies he was ever short of breath. Denies 
any recent CP. Feels well. Of note, appears to have recieved 
keyexelate for hyperkalemia (6.1) prior to going to ED, lasix 
also held, and weight seems to have increased from 204 to 214.  
Recently admitted in ___ after being transferred for 
possible IP intervention given loculated pleural effusion. CT 
was placed initially but did not drain, suggesting loculation. 
Transferred to the thorcic surgery service where he underwent a 
left VATS decortication on ___. He was ultimately found to 
have empyema, discharged on Flagyl/Ceftx to complete a course on 
___, culture negative fluid. Coumadin was successfully 
restarted. D/c to rehab and then back to ALF.  
Per last PCP note, pt now full code, and lasix had been 
uptitrated due to leg swelling to no good effect recently. Note 
= ___.  
In the ED intial vitals were: 0 97.8 78 91/44 22 96%  
-Patient was given: No meds.  
-Labs notable for: Trop of 0.09, lactate 2.4, cr 1.7 (around 
baseline per ___ 1.3-1.6), K 5.5, INR 1.5 (on Coumadin).  
-CXR done at OSH.  
-Discussed with ___ cards attending, will admit to their 
service on tele w/o heparin as troponin is down-trending and 
could be demand ischemia from some other etiology.  
Vitals on transfer: 93 103/64 24 99% RA  
ROS: Per HPI  
 
Past Medical History:
# CAD - s/p CABG ___ (LIMA to LAD, SVG to OM2, SVG to PDA); pos 
ETT-echo in ___ w/ inducible apircal septial and lateral 
hypokinesis  
# DM2 - on insulin, c/b neiropathy and ?nephropathy  
# CKD - since ___ Baseline Cr around 1.3-1.6  
# Hypothyroidism  
# Hyperlipidemia  
# Afib/flutter on coumadin  
# First degree AV block  
# Osteopenia  
# OA  
# Empyema s/p decortication ___, d/c on Ceftx/Flagyl  
# Lumbar spinal stenosis, comp fx L1  
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 97.3 115/63 76 18 93-95% RA
ADMISSION WEIGHT: 100 kg
GENERAL: WDWN male in NAD, appropriate, oriented to place, 
person, and time  
HEENT: NCAT. Sclera anicteric. PERRLA, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVD to about the lower angle of the jaw.  
CARDIAC: Irregular irregular nature but regular at times, no 
m/g/c/r.  
LUNGS: Crackles at bases b/l with scattered wheeze if any  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c, 2+ pitting edema to thigh b/l, skin peeling 
due to stretch  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: 2+ pulses

DISCHARGE PHYSICAL EXAM
======================= 
Vitals: 97.3-98.0, 91-105/41-58, 52-95, 18, 95-99% on RA
Weight on admission: 100 kilograms
Discharge weight: 81.3 kg
GENERAL: Alert and oriented x 3, resting comfortably on room 
air.  
HEENT: Sclera anicteric, left eyelid drooping-chronic and 
unchanged. 
NECK: Supple neck, JVD to 3 cm above the clavicle. 
CARDIAC: Irregular irregular rhythm, no murmurs rubs or gallops. 
 
LUNGS: Slightly decreased breath sounds at right lower base. 
Minimal bibasilar crackles.
ABDOMEN: Soft, non-tender, non-distended, no rebound or 
guarding.  
EXTREMITIES: Trace edema in the legs bilaterally. 
PULSES: 2+ pulses  
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:00PM BLOOD WBC-8.7 RBC-3.23* Hgb-10.5* Hct-31.6* 
MCV-98# MCH-32.5*# MCHC-33.2 RDW-20.1* Plt ___
___ 08:00PM BLOOD Neuts-80.8* Lymphs-10.1* Monos-6.0 
Eos-2.9 Baso-0.2
___ 08:00PM BLOOD ___ PTT-31.7 ___
___ 08:00PM BLOOD Glucose-96 UreaN-59* Creat-1.7* Na-141 
K-5.5* Cl-107 HCO3-25 AnGap-15
___ 08:00PM BLOOD Albumin-2.8*
___ 05:05AM BLOOD Calcium-7.9* Phos-4.1# Mg-2.3
___ 08:14PM BLOOD Lactate-2.4*

DISCHARGE LABS
==============
___ 04:55AM BLOOD WBC-4.2 RBC-3.56* Hgb-10.9* Hct-34.5* 
MCV-97 MCH-30.6 MCHC-31.6 RDW-19.0* Plt ___
___ 04:55AM BLOOD ___ PTT-36.9* ___
___ 04:55AM BLOOD Glucose-101* UreaN-29* Creat-1.3* Na-141 
K-4.2 Cl-97 HCO3-37* AnGap-11
___ 04:55AM BLOOD Calcium-9.0 Phos-4.2 Mg-2.1

CARDIOLOGY LABS
===============
___ 08:00PM BLOOD ___
___ 08:00PM BLOOD cTropnT-0.09*
___ 05:05AM BLOOD CK-MB-4 cTropnT-0.08*
___ 03:48PM BLOOD CK-MB-4 cTropnT-0.07*

LFTS
====
___ 08:00PM BLOOD ALT-25 AST-29 LD(LDH)-248 AlkPhos-80 
TotBili-0.5

LACTATE TREND
=============
___ 08:14PM BLOOD Lactate-2.4*
___ 03:24PM BLOOD Lactate-1.1

MICROBIOLOGY
============
___: BLOOD CULTURE: NO GROWTH (FINAL)

IMAGING
=======
___: TRANSTHORACIC ECHOCARDIOGRAM
The left atrial volume index is mildly increased. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses and cavity size are normal. Overall left ventricular 
systolic function is severely depressed (LVEF= ___ secondary 
to severe global hypokinesis with ? worse function of the 
inferolateral wall. No masses or thrombi are seen in the left 
ventricle. The right ventricular cavity is mildly dilated with 
moderate global free wall hypokinesis. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Moderate to severe [3+] tricuspid regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. [In the setting of at least moderate to severe tricuspid 
regurgitation, the estimated pulmonary artery systolic pressure 
may be underestimated due to a very high right atrial pressure.] 
There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality requiring use of Optison 
contrast. Normal left ventricular size with severe global 
systolic dysfunction and worse inferolateral hypokinesis 
suggestive of CAD. Dilated and hypokynetic right ventricle. 
Moderate to severe tricuspid regurgitation. 

___: CHEST (PORTABLE AP)
IMPRESSION: 
Cardiomediastinal silhouette is stable. Slight interval increase 
in right
pleural effusion is suspected, minimal. Right basal atelectasis 
in part
rounded is unchanged. Left lung is essentially clear. No 
evidence of pulmonary edema. Demonstrated.
 
Brief Hospital Course:
___ with recent admission for empyema s/p decortication, 
HFrEF, afib/flutter on Coumadin who presents with SOB, bilateral 
pitting edema, increased weight gain and reaccumulation of right 
lower lobe pleural effusion. 
 
#Decompensated Heart Failure with Reduced Ejection Fraction: 
Patient appeared dyspneic (requiring oxygen via nasal cannula) 
on admission with ___ pitting edema up to the thighs. 
Additionally had JVD to the angle of the jaw. CXR showed right 
pleural effusion  BNP elevated to 18,511. Patient initially 
received furosemide bolus (120 mg IV lasix) followed by a 
furosemide drip at 10 mg/hour from ___ to ___ and 
was transitioned to torsemide 20 milligrams PO daily. During 
hospitalization patient underwent a transthoracic echocardiogram 
which showed an EF of ___ with "severe global systolic 
dysfunction and worse inferolateral hypokinesis suggestive of 
CAD. Dilated and hypokinetic right ventricle. Moderate to severe 
tricuspid regurgitation." This was drastically different than 
previous stress echocardiogram obtained ___ at ___ 
___ which showed overall left ventricular systolic function 
with an estimated LVEF of 55%, grade I diastolic dysfunction, no 
significant valvular heart disease. During that stress 
echocardiogram, there was "evidence of inducible ischemia the 
level of stress achieved. Echo images demosntrated new reional 
wall motion abnormalities consistent with inducible apical 
septal and apical lateral hypokinesis. Baseline inferior apical 
lateral hypokinesis." 

During hospitalization at ___, troponins initially elevavted 
at 0.09 but downtrended. This was thought to be secondary to 
volume overload and decompensated heart failure.   

Weight on admission 100 kilograms. 
Weight on discharge 81.3 kilograms.
Creatinine at time of discharge 1.3

Based on new findings of worsening EF with severe tricuspid 
regurgitation, recommendation was to follow-up with an 
outpatient adenosine MIBI to assess ejection fraction. Also may 
consider cardiac catheterization given likely coronary artery 
disease leading to reduced ejection fraction. 

Given heart failure with reduced ejection fraction, continued a 
medication regimen of lisinopril 5 mg PO daily, atorvastatin 40 
mg PO QPM, aspirin 81 mg PO daily, metoprolol succinate XL 25 mg 
PO daily, and torsemide 20 mg PO daily. 

#Atrial Fibrillation/Atrial Flutter: CHADS2 of at least 4 (age, 
hypertension, heart failure, diabetes). INR on admission 1.5. He 
was started on coumadin with a bridge with heparin drip. Goal 
INR ___. He was discharged with an INR of 3. Coumadin dose at 
the time of discharge was 2.5mg daily.  Plan for follow-up INR 
check on ___

#Non-Sustained Ventricular Tachycardia: Occurred ___. 
Patient was hemodynamically stable and asymptomatic with HRs of 
150s. Max run of non-sustained ventricular tachycardia was 17 
beats. Etiology was unclear as electrolytes were within normal 
limits. He was continued on metoprolol as noted above.

#Chronic Kidney Disease: Cr basleine 1.4-1.6. Creatinine on 
admission 1.7. After diuresis, patient's creatinine at the time 
of discharge was 1.3.

#Altered Mental Status: Patient had several episodes of altered 
mental status presenting with confusion, somnolence. ABGs drawn 
at time were within normal limits. He also was noted to have 
intermittent ptosis that would change between R and L side. On 
discussion with his brother, his altered mental status has been 
ongoing for months, with negative workup previously. Confusion 
resolved with diuresis. 

#Type II Diabetes Mellitus: Cont Lantus at bedtime, and HISS. 
 
#Hypertension: Blood pressure during hospitalization well 
controlled. Patient was on lisinopril 5 mg PO daily and 
metoprolol succiante XL 25 mg PO daily at the time of discharge. 
 

#Hyperlipidemia: Continued on atorvastatin 40 mg PO daily. 

#Hypothyroidism: Continued on levothyroxine sodium 75 mcg PO 
daily.   

TRANSITIONAL ISSUES
=================== 
#INR check on ___
#Torsemide dose 20mg daily
#Continue titration of glucose control
#Discharge Weight: 81.3kg
#Nodular Thyroid Imaging Follow up: Asymmetrical nodular thyroid 
for which ultrasound evaluation is recommended on imaging at 
___. 
#Newly Diagnosed HFrEF: Given EF of ___ would likely require 
outpatient adenosine MIBI and/or cardiac catheterization.
#Repeat Chest xray in ___ to assess size of pleural 
effusion
#Code (Full Code)
#CONTACT: Sister: ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID 
4. Calcium Carbonate 500 mg PO QAM 
5. Lisinopril 2.5 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Warfarin 5 mg PO DAILY16 
8. Acetaminophen 650 mg PO Q6H 
9. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN sob 
10. Docusate Sodium 100 mg PO BID 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
12. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
13. Furosemide 40 mg PO BID 
14. Glargine 24 Units Bedtime
Humalog 14 Units Breakfast
Humalog 14 Units Lunch
Humalog 16 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
15. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Atorvastatin 40 mg PO QPM 
3. Calcium Carbonate 500 mg PO QAM 
4. Docusate Sodium 100 mg PO BID 
5. Glargine 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
7. Levothyroxine Sodium 75 mcg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Warfarin 2.5 mg PO DAILY16 
10. Aspirin 81 mg PO DAILY 
11. Metoprolol Succinate XL 25 mg PO DAILY 
12. Torsemide 20 mg PO DAILY 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN sob 
14. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Acute on Chronic Systolic Heart Failure

SECONDARY DIAGNOSIS
====================
Atrial Fibrillation/Atrial Flutter
Non-sustained Ventricular Tachycardia
Chronic Kidney Disease
Type II Diabetes Mellitus
Hypertension
Hyperlipidemia
Hypothyroidism

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
experiencing shortness of breath and increased swelling in your 
legs. This was secondary to a condition called congestive heart 
failure. In order to treat the breathing, you were placed on a 
diuretic drip to help you urinate and remove fluid from your 
body. This helped improve your breathing and decreased the 
swelling in your legs.

During hospitalization you were also re-started on your 
coumadin. Please continue to take the coumadin at 2.5mg. Please 
have your INR checked on ___ 

Given your history of heart failure, please weigh yourself every 
morning, call MD if weight goes up more than 3 lbs. Your weight 
at the time of discharge was 81.3kg.

It was pleasure taking care of you during your hospitalization. 
We wish you all the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___